US04416687
Preparation of ethyl 2-[3,5-bis(trifluoromethyl)phenoxy]propionate
To a stirred solution containing 17.3 g (0.075 mole) of 3,5-ditrifluoromethylphenol, 5 g (0.075 mole) of 85% potassium hydroxide, 150 ml of dimethylformamide and 7 ml of water, 14.6 g (0.08 mole) of ethyl 2-bromopropionate was added in one portion. The stirred reaction mixture was heated at 80°-90° C. for 24 hours. After cooling to 25° C., 500 ml of water and 500 ml of ethyl ether were added and stirring was continued for 15 minutes. The separated ether layer was washed with water until neutral to litmus and dried over sodium sulfate. The ether was removed in vacuo at maximum temperature of 50°C. at 1-2 mm of Hg. The resulting product was obtained as an amber liquid, ND25 =1.4184 in 97% yield.

reactant | 3,5-ditrifluoromethylphenol | 0.075 mole, 17.3 g | C1=C(C=C(C=C1C(F)(F)F)O)C(F)(F)F | C8H4F6O
reactant | potassium hydroxide | 0.075 mole, 5 g | [OH-].[K+]
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
reactant | ethyl 2-bromopropionate | 0.08 mole, 14.6 g | BrC(C(=O)OCC)C | C5H9BrO2
solvent | ethyl ether | 500 ml | C(C)OCC | C4H10O
solvent | water | 500 ml | O | H2O
solvent | water | 7 ml | O | H2O
product | ethyl 2-[3,5-bis(trifluoromethyl)phenoxy]propionate | 97% yield | FC(C=1C=C(OC(C(=O)OCC)C)C=C(C1)C(F)(F)F)(F)F | C13H12F6O3
